US08258307B2
7.8 g of zinc activated by a hydrochloric acid and 25 ml of benzene were placed in a circulation device incorporating the Dean and Stark device. The solution was circulated while heated. To the resultant solution, a mixed solution of 15.6 g (100 mmol) of decanal and 18.4 g (110 mmol) of bromoacetic acid ethyl was dropped. After six hours, the solution was cooled to room temperature. A 50% (w/w) sulfuric acid was added to divide the solvent, and the organic layer was separated. The organic layer was dried with magnesium sulfate, and concentrated under reduced pressure. The resulting residue was purified by silica gel chromatography (developing solvent: hexane/ethyl acetate=2/8). As a result, a 3-hydroxydecanoic acid ethyl ester was obtained.

reactant | hydrochloric acid | Cl | ClH
reactant | decanal | 100 mmol, 15.6 g | C(CCCCCCCCC)=O | C10H20O
reactant | bromoacetic acid ethyl | 110 mmol, 18.4 g | CCOC(=O)CBr | C4H7BrO2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
catalyst | zinc | 7.8 g | [Zn] | Zn
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
product | 3-hydroxydecanoic acid ethyl ester | Yield: 93% | C(C)OC(CC(CCCCCCC)O)=O | C12H24O3
